US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(3-cyano-phenyl)-acetamide (45 70001864)
The title compound is prepared from 2-chloro-N-(3-cyano-phenyl)-acetamide and 4-benzyl-piperidine according to the method described in Example 142b. Melting Point: 88-90° C. (diethylether)

reactant | 2-chloro-N-(3-cyano-phenyl)-acetamide | ClCC(=O)NC1=CC(=CC=C1)C#N | C9H7ClN2O
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(3-cyano-phenyl)-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC1=CC(=CC=C1)C#N | C21H23N3O
